US04723006
22.0 Parts of 2-amino-4-chloro-6-(2,2-dichlorovinyl)pyrimidine was dissolved in 500 parts of dry methanol and stirred whilst a solution of sodium methoxide, prepared by dissolving 4.6 parts of sodium in 200 parts of dry methanol, was added dropwise, over 30 minutes at ambient temperature. The resulting solution was stirred for 4 hours by which time all the starting material had been consumed. The product was precipitated by the addition of water, filtered and dried. The solid obtained was purified by chromatography on silica using diethyl ether as eluent. Final purification was effected by recrystallisation from carbon tetrachloride to give 2-amino-4-(2,2-dichlorovinyl)-6-methoxypyrimidine m.p. 90°-91° C.

reactant | 2-amino-4-chloro-6-(2,2-dichlorovinyl)pyrimidine | NC1=NC(=CC(=N1)Cl)C=C(Cl)Cl | C6H4Cl3N3
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 2-amino-4-(2,2-dichlorovinyl)-6-methoxypyrimidine | NC1=NC(=CC(=N1)C=C(Cl)Cl)OC | C7H7Cl2N3O
